US05670381
The activation of theophylline was accomplished by dissolving theophylline-butylate (10 mg; MW 280.29; 3.57×10-5 moles) in methylene chloride (3.0 ml). A three mole excess of dicyclohexyl-carbodiimide (22 mg; MW 206.3) and a three mole excess of N-hydroxysuccinimide (12.3 mg; MW 115.09) were added, and the reaction mixture was stirred over night at room temperature. The mixture was filtered to remove dicyclohexylurea and was rotavaporated to dryness to yield ten milligrams of N-succinimidyl-theophylline-butylate (theophylline-butylate-oSu).

reactant | theophylline | N1(C)C(=O)N(C)C=2N=CNC2C1=O | C7H8N4O2
reactant | theophylline butylate | 3.57×10-5 moles, 10 mg | N1(C)C(=O)N(C)C=2N=CNC2C1=O.CCSC(=O)N(CC(C)C)CC(C)C
reactant | dicyclohexyl-carbodiimide | 22 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | N-hydroxysuccinimide | 12.3 mg | ON1C(CCC1=O)=O | C4H5NO3
solvent | methylene chloride | 3.0 ml | C(Cl)Cl | CH2Cl2
product | N-succinimidyl-theophylline butylate | ten milligrams | C1(CCC(N1N1C=2N(C(N(C)C(C2N=C1)=O)=O)C)=O)=O.CCSC(=O)N(CC(C)C)CC(C)C | InChI=1S/C11H11N5O4.C11H23NOS/c1-13-9-8(10(19)14(2)11(13)20)12-5-15(9)16-6(17)3-4-7(16)18;1-6-14-11(13)12(7-9(2)3)8-10(4)5/h5H,3-4H2,1-2H3;9-10H,6-8H2,1-5H3
